US07119115B2
A solution of 2 g of ethyl 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylate in 20 cm3 of ethanol and 8.7 cm3 of 1N sodium hydroxide solution are heated for 3 hours at a temperature in the region of 70° C. The ethanol is then removed under reduced pressure to give a solution, which is acidified to a pH in the region of 3 by addition of 1N hydrochloric acid. The resulting mixture is filtered to give 1.48 g of 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylic acid in the form of a white solid, the characteristics of which are as follows:

reactant | ethyl 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylate | 2 g | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)C(=O)OCC)C1=CC=CC=C1 | C22H20N2O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 8.7 cm3 | [OH-].[Na+]
product | 6,6-diphenyl-6,7-dihydro-1H-indazole-3-carboxylic acid | 1.48 g | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)C(=O)O)C1=CC=CC=C1 | C20H16N2O2
